US05087658
Into a four-neck flask equipped with a thermometer, a stirrer, and a nitrogen introducing tube charged were 10.711 g (0.0364 mol) of 3,3',4,4'-biphenyltetracarboxylic dianhydride, 7.289 g (0.0364 mol) of 2,4'-diaminodiphenyl ether, and 72 g of N-methylpyrrolidone while gaseous nitrogen was passed through the flask. With stirring, reaction was allowed to proceed at room temperature for 10 hours. Due to the formation of polyamic acids having a high molecular weight, the viscosity of the reaction system increased to such a degree that stirring became difficult. After addition of a small amount of water for controlling the molecular weight, the reaction mixture was heated at 60° C. After addition of 52 g of acetic anhydride and 26 g of pyridine, the resulting mixture was allowed to stand for 12 hours at room temperature. The obtained paste was introduced into methanol, and the precipitated fine particles of a solid resin were collected. After sufficiently washed by boiling it in methanol, the solid resin was dried under a reduced pressure at 80° C. for 10 hours, to obtain a powdery polyimide resin (reduced viscosity: 0.68 dl/g) having the repeating unit represented by the following formula.

reactant | 3,3',4,4'-biphenyltetracarboxylic dianhydride | 0.0364 mol, 10.711 g | C1=CC2=C(C=C1C3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | C16H6O6
reactant | N-methylpyrrolidone | 72 g | CN1C(CCC1)=O | C5H9NO
reactant | water | O | H2O
reactant | acetic anhydride | 52 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 26 g | N1=CC=CC=C1 | C5H5N
solvent | methanol | CO | CH4O
product | polyimide resin | CC1(CC(C2=C1C=C(C=C2)N)(C)C3=CC=C(C=C3)N)C.C1=CC2=C(C=C1C(=O)C3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | InChI=1S/C18H22N2.C17H6O7/c1-17(2)11-18(3,12-4-6-13(19)7-5-12)15-9-8-14(20)10-16(15)17;18-13(7-1-3-9-11(5-7)16(21)23-14(9)19)8-2-4-10-12(6-8)17(22)24-15(10)20/h4-10H,11,19-20H2,1-3H3;1-6H
